US07524860B2
A mixture of 5-Chloro-7-(6-methoxy-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine, which may be produced similar to Example 1A but substituting 6-methoxy-pyridine-3-boronic acid for 3-pyridine boronic acid (300 mg, 1.09 mmol), 2-methyl-oxazole (450 mg, 5.4 mmol), [Pd(PPh3)4] (130 mg, 0.11 mmol), KOAc (534 mg, 5.45 mmol) and DMA (4 mL) was microwaved at 200° C. for 15 min. The cooled mixture was taken up in MeOH/CHCl3, filtered through Celite, and then the filtrate was pre-adsorbed on SiO2. Column chromatography (3% MeOH/CHCl3) gave a solid which was triturated with a 1:1 mixture of DCM/hexane. Filtration gave 7-(6-methoxy-pyridin-3-yl)-5-(2-methyl-oxazol-5-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine.

reactant | 5-Chloro-7-(6-methoxy-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | ClC1=CC(=CC=2N1N=C(N2)N)C=2C=NC(=CC2)OC | C12H10ClN5O
reactant | 3-pyridine boronic acid | 1.09 mmol, 300 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | 2-methyl-oxazole | 5.4 mmol, 450 mg | CC=1OC=CN1 | C4H5NO
reactant | KOAc | 5.45 mmol, 534 mg | CC(=O)[O-].[K+]
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMA | 4 mL | CC(=O)N(C)C | C4H9NO
product | 7-(6-methoxy-pyridin-3-yl)-5-(2-methyl-oxazol-5-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | COC1=CC=C(C=N1)C1=CC=2N(C(=C1)C1=CN=C(O1)C)N=C(N2)N | C16H14N6O2
